US03940421
By reacting 7-(3-cyclopropyl-2-propyl)-1,2-dihydro-9-hydroxy-4-oxo-4H-thieno[2,3-c][1]benzopyran with n-hexylmagnesium bromide, using the manipulative procedure described above in Example 8, there is obtained 7-(3-cyclopropyl-2-propyl)-4,4-di(1-hexyl)-1,2-dihydro-9-hydroxy-4H-thieno[2,3-c][1]benzopyran.

reactant | 7-(3-cyclopropyl-2-propyl)-1,2-dihydro-9-hydroxy-4-oxo-4H-thieno[2,3-c][1]benzopyran | C1(CC1)CC(C)C1=CC2=C(C3=C(C(O2)=O)SCC3)C(=C1)O | C17H18O3S
reactant | n-hexylmagnesium bromide | C(CCCCC)[Mg]Br
product | 7-(3-cyclopropyl-2-propyl)-4,4-di(1-hexyl)-1,2-dihydro-9-hydroxy-4H-thieno[2,3-c][1]benzopyran | C1(CC1)CC(C)C1=CC2=C(C3=C(C(O2)(CCCCCC)CCCCCC)SCC3)C(=C1)O | C29H44O2S
